simulator lang=spectre 
global 0
parameters tempc={{tempc}} nA1={{nA1}} nB1={{nB1}} nA2={{nA2}} nB2={{nB2}} nA3={{nA3}} nB3={{nB3}} vdd={{vdd}} vcm={{vcm}} vbiasp0={{vbiasp0}} vbiasn0={{vbiasn0}}  
include "/path/to/open-source/scs_files/PTM-MG/modelfiles/lstp/10nfet.pm" 

include "/path/to/open-source/scs_files/PTM-MG/modelfiles/lstp/10pfet.pm"
//


//.GLOBAL gnd!
////+        vdd!

//.PIN gnd!
////+    vdd!


// fully_differential_pfet Vbiasn0 Vbiasp0 Vinn Vinp Voutn Voutp
//.PININFO Vbiasp0:I Vinn:I Vinp:I Vbiasn0:O Voutn:O Voutp:O
MM7 Voutp Vinn net12 vdd! pfet l=nA2 nfin=nB2
MM6 Voutn Vinp net12 vdd! pfet l=nA2 nfin=nB2
MM5 net12 Vbiasp0 vdd! vdd! pfet l=nA3 nfin=nB3
MM9 Voutp Vbiasn0 gnd! gnd! nfet l=nA1 nfin=nB1
MM8 Voutn Vbiasn0 gnd! gnd! nfet l=nA1 nfin=nB1

VS (gnd! 0) vsource dc=0 type=dc
V0 (vdd! gnd!) vsource dc=vdd type=dc
V2 (in gnd!) vsource type=dc mag=1
E1 (Vinp cm in gnd!) vcvs gain=.5
E0 (Vinn cm in gnd!) vcvs gain=-0.5
V1 (cm gnd!) vsource dc=vcm type=dc
VP (Vbiasp0 gnd!) vsource dc=vbiasp0 type=dc
VN (Vbiasn0 gnd!) vsource dc=vbiasn0 type=dc
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=tempc tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
ac ac start=1 stop=100G dec=10 annotate=status 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save V0:p  MM5:gm MM5:vgs MM5:vds MM5:ids MM5:region  MM6:gm MM6:vgs MM6:vds MM6:ids MM6:region  MM7:gm MM7:vgs MM7:vds MM7:ids MM7:region  MM8:gm MM8:vgs MM8:vds MM8:ids MM8:region  MM9:gm MM9:vgs MM9:vds MM9:ids MM9:region
saveOptions options save=allpub
